US08030311B2
Step 24.1: 4′-Amino-2′-trifluoromethyl-biphenyl-4-carbonitrile
The title compound is prepared as described in Example 13 but using 5-amino-3-bromobenzotrifluoride (OAKWOOD PRODUCTS; Inc.) and 1.5 equiv of 4-cyanophenylboronic acid (MATRIX SCIENTIFIC). Silica gel column chromatography purification (Hexane/EtOAc, 4:1) provides the title compound as a white solid: ES-MS: 262.0 [M-H]−; single peak at tR=4.37 min (System 1); Rf=0.09 (Hexane/EtOAc, 4:1).

reactant | 5-amino-3-bromobenzotrifluoride | NC=1C=C(C=C(C1)C(F)(F)F)Br | C7H5BrF3N
reactant | 4-cyanophenylboronic acid | 1.5 equiv | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
product | 4′-Amino-2′-trifluoromethyl-biphenyl-4-carbonitrile | NC1=CC(=C(C=C1)C1=CC=C(C=C1)C#N)C(F)(F)F | C14H9F3N2
